US06906113B2
15.3 g of chromium trioxide is added dropwise to a solution of 15 g of ethyl 4-hydroxymandelate in 240 ml of acetic acid. The mixture is stirred at room temperature for 2 hours, poured into 1 l of ethyl acetate and extracted with saturated aqueous Na2CO3 solution. The aqueous phases are extracted with methylene chloride. The organic phases are washed with saturated aqueous Na2CO3 solution, followed by washing with water. The organic phases are dried over sodium sulfate. Filtration, evaporation of the solvent and distillation (ball-tube still distillation, boiling point 205° C. (0.076 bar)) give 4.04 g (27 wt %) ethyl 4-hydroxybenzoylformate as a yellow solid.

reactant | ethyl 4-hydroxymandelate | 15 g | OC1=CC=C(C(C(=O)OCC)O)C=C1 | C10H12O4
reactant | ethyl acetate | 1 l | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 240 ml | C(C)(=O)O | C2H4O2
catalyst | chromium trioxide | 15.3 g | [O-2].[O-2].[O-2].[Cr+6]
product | ethyl 4-hydroxybenzoylformate | 4.04 g | OC1=CC=C(C(=O)C(=O)OCC)C=C1 | C10H10O4
